Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
AMS, Intracranial/Intraventricular Hemorrhage
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man who presented as a 
transfer
from OSH with an ICH. Patient was in his usual state of health
yesterday evening. The morning, he was noted to be altered,
prompting his family to bring him to the ED. 

He was hypertensive on arrival to outside hospital. CT showed
intraventricular and intraparenchymal hemorrhage. He was started
on nicardipine for blood pressure control. Right femoral line
placed at outside hospital. Patient oriented to self, 
disoriented
to place and time. Denies fevers, chills, nausea, vomiting, 
chest
pain, shortness of breath, changes in vision or hearing, new
rash, lesion, wound, change in bowel or bladder function. 

 
Past Medical History:
HTN
ESRD
GERD
BPH
NSTEMI vs Amyloidosis ___
AFib on Warfarin
Anemia
HFpEF

 
Social History:
___
Family History:
Father DM
Mother HTN
Grandfather ___ Cancer
 
Physical Exam:
GEN:    lying in bed in NAD. appears older than stated age.
HEENT:  PERRL, EOMI
___:    RRR nl s1/s2 +s3, no murmur
PULM:   CTABL on anterior auscultation without increased WOB
ABD:    soft NT ND +BS
EXTR:   WWP without edema over BLE. nonfunctioning LUE AVF with
multiple aneurysms. RUE AVF dressed, clean/dry. +thrill. 
NEURO:  AOx3. CN2-12 intact. motor ___ bilateral UE and ___
intact to LT throughout. 

 
Pertinent Results:
___ 06:02AM BLOOD WBC-4.9 RBC-3.74* Hgb-10.4* Hct-32.6* 
MCV-87 MCH-27.8 MCHC-31.9* RDW-18.4* RDWSD-58.7* Plt ___
___ 07:22AM BLOOD Glucose-116* UreaN-24* Creat-7.2*# 
Na-134* K-3.6 Cl-95* HCO3-21* AnGap-18
___ 06:30AM BLOOD ALT-15 AST-15 AlkPhos-163* TotBili-1.0
___ 07:22AM BLOOD Calcium-9.0 Phos-3.3 Mg-1.6
___ 06:39AM BLOOD calTIBC-228* ___ Ferritn-1199* 
TRF-175*

Noncontrast head CT: Incomplete head CT excludes the vertex.
Hyperdensity within the left temporal lobe corresponds to known
intraparenchymal hemorrhage with intraventricular extension into
the lateral ventricle temporal horn. Overall, the appearance is
similar to the study from 7 hours prior. Periventricular and
subcortical white matter hypodensities are nonspecific but 
likely
sequelae of chronic small vessel ischemic disease. Incidental
note is
made of bilateral optic nerve hyperdensities, likely
calcifications.

CTA head and neck: Calcifications are noted at the bilateral
C4-C5 ICA and origin of the right vertebral artery without flow
limitation. The bilateral posterior cerebral arteries are
difficult to visualize beyond the P2 segments. Otherwise, the
major vessels of the neck, circle of ___, and their principal
intracranial branches appear without flow limiting stenosis,
occlusion, or formation of aneurysms larger than 3 mm. 

CXR: Interval progression of pulmonary edema since exam from
earlier the same day. Superimposed infection is not excluded.

EKG: QTc 583, TWI in V5-V6, Possible LBBB

 
Brief Hospital Course:
___ year old male with history of ESRD on HD, diastolic CHF with 
prior question of amyloidosis, and atrial fibrillation on 
warfarin admitted ___ with intracranial hemorrhage in the 
setting of hypertensive emergency, medically managed, course 
complicated by labile blood pressures, 

# Hypertensive emergency 
# Intraventricular Bleed
Patient presented with confusion and was found to have 
spontaneous left temporal horn primary intraventricular 
hemorrhage. in setting of severe hypertension (220s systolic) 
after missed dialysis. He was started on nicardipine drip.  
Given that his INR was subtherapeutic at 1.4, he did not require 
reversal. Upon evaluation by neurosurgery, he did not require 
EVD placement as the his exam was stable and repeat imaging 
showed the bleed to be stable as well. His home warfarin was 
held and repeat CT after 7 days showed stability. Due to concern 
about the possibility for repeat bleed if he continues to miss 
hemodialysis or does not reliably take his home blood pressure 
medications, he was transitioned from warfarin to ASA 81mg. 
Following the intraventricular bleed, his blood pressure goal 
was initially set at systolic < 150mmHg and long term systolic < 
130mmHg---however, this was further modified due to concern for 
inaccurate blood pressure readings in his upper extremity: the 
decision was made to monitor his blood pressure in his left arm 
and leg and to adjust his BP goal based on the average between 
BP in the arm and the leg, with the blood pressure goal was set 
to systolic <160, with long term goal of systolic < 140. During 
the remainder of his hospitalization, his blood pressure 
remained labile, with a final, stable regimen of lisinopril 40mg 
qam, nifedipine ER 60mg qhs, and labetalol 100 TID resulting in 
control.  Patient is planned for follow up with neurology at 
___ in ___ weeks for reevaluation with CT head noncontrast and 
risk/benefit discussion re: whether to restart home warfarin.  
Of note, patient seen by OT given Intraventricular Bleed--he was 
independent with basic ADLs, but required supervision ambulating 
without assistive device, demonstrated poor insight into home 
safety, unable to complete medication management.  He was 
recommended for home with 24 hours services. 

# Acute Hypoxemic Respiratory Failure secondary to
# Acute on chronic diastolic CHF 
On admission, patient with hypoxemia respiratory failure, 
improved with 2L O2 on nasal cannula. CXR shows volume overload 
with JVD and high BNP, though no leg edema. He was given IV 
Lasix without significant urinary response. He subsequently had 
additional volume removed through dialysis. He was weaned to 
room air. 

# Paroxysmal A Fib on Warfarin: CHADsVASC 4. HASBLED 4.
Remained in sinus rhythm this admission. As above, he had been 
on warfarin for anticoagulation, but this was held in setting of 
bleed.  Due to concerns about patient's ability to reliably take 
his medications and attend HD, and his high risk for repeat 
bleed with his difficult to control BPs, his home warfarin was 
transitioned to ASA 81mg. Patient is planned for follow up with 
neurology at ___ in ___ weeks for reevaluation with CT head 
noncontrast and risk benefit discussion re: warfarin.  

# Thrombocytopenia:
On admission, patient's platelet count was 144k and slowly 
downtrended for several days, reaching a nadir of 95k. As his 
neurological exam was stable, it was assumed to be related to 
consumption of platelets in setting of intracranial bleed. His 
platelet count improved to 143k prior to discharge.

# Elevated Troponin:
Upon admission, patient with elevated troponin to 0.09 without 
chest pain.  TTE without new focal wall motion abnormalities. 

# ESRD, Non-Oliguric
Patient with ESRD on HD MWF. He received dialysis throughout his 
hospital admission on a ___ schedule.

# Mitral Stenosis
TTE incidentally showed moderate to severe mitral stenosis.  
Would consider outpatient cardiology referral; 

Transitional issues 
[] Blood pressure goals and approach as above 
[] Please continue to hold patient's warfarin until upcoming 
neurology appointment for CT head and risk/benefit discussion 
re: restarting anticoagulation
[] During prior admission was recommended for cardiac MRI for 
workup for possible amyloidosis; he denied following up on this; 
consider outpatient referral; 
[ ] Incidentally found to have "Nonspecific asymmetry of the 
base of the toe, which is enlarged on the right side. While this 
may represent asymmetrical tongue base lymphoid tissue, a tongue 
base lesion cannot be excluded." Recommended for "ENT referral, 
CT neck and direct visualization, for further assessment of the 
possible right sided tongue base lesion is suggested if 
clinically warranted.". 
[ ] incidentally found to have CT chest with "mediastinal and 
hilar lymph nodes are enlarged and some which are calcified, 
could be related to prior granulomatous disease."; also showed 
"Multiple scattered bilateral pulmonary nodules some which which 
are calcified could also represent granulomatous disease."  
Consider outpatient workup 
[ ] TTE incidentally showed moderate to severe mitral stenosis.  
Would consider outpatient cardiology referral; 

> 30 minutes spent on discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. CARVedilol 12.5 mg PO BID 
3. Labetalol 100 mg PO DAILY 
4. Zolpidem Tartrate 5 mg PO QHS:PRN Insomnia 
5. Vitamin D ___ UNIT PO DAILY 
6. Lisinopril 20 mg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Tamsulosin 0.4 mg PO DAILY 
9. Prochlorperazine 5 mg PO DAILY:PRN Nausea/Vomiting - First 
Line 
10. sevelamer CARBONATE 800 mg PO TID W/MEALS 
11. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Nephrocaps 1 CAP PO DAILY 
RX *B complex with C 20-folic acid ___ Caps] 1 mg 1 capsule(s) 
by mouth once a day Disp #*30 Capsule Refills:*0 
3.  NIFEdipine (Extended Release) 60 mg PO DAILY 
RX *nifedipine 60 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Labetalol 100 mg PO TID 
RX *labetalol 100 mg 1 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*0 
5.  Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
6.  Atorvastatin 80 mg PO QPM  
7.  Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID  
8.  Omeprazole 20 mg PO DAILY  
9.  Prochlorperazine 5 mg PO DAILY:PRN Nausea/Vomiting - First 
Line  
10.  sevelamer CARBONATE 800 mg PO TID W/MEALS  
11.  Tamsulosin 0.4 mg PO DAILY  
12.  Vitamin D ___ UNIT PO DAILY  
13.  Zolpidem Tartrate 5 mg PO QHS:PRN Insomnia  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Intraventricular hemorrhage

Secondary diagnoses:
HTN
ESRD on HD
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent with poor memory.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had a bleed in your brain that 
was likely due to high blood pressure.  

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-  Due to the location of the bleed and your minimal symptoms, 
no surgery was performed for the bleed. Your warfarin, a blood 
thinner, was stopped and your blood pressure was treated. 
- You were started on aspirin to replace your previous blood 
thinner. 
- Your blood pressure continued to remain high despite several 
changes to your blood pressure medications. You will be sent 
home on the final medications that was able to control your 
blood pressure. 
- You had imaging of your brain that demonstrated that you were 
not having additional bleeding in your brain and that the bleed 
had started to disappear. 

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  

 
Followup Instructions:
___